* OPA445
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA445
* Date: 08JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS156B-MARCH 1987-REVISED APRIL 2008
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************

* CONNECTIONS:   NON-INVERTING INPUT

*                | INVERTING INPUT

*                | | POSITIVE POWER SUPPLY

*                | | | NEGATIVE POWER SUPPLY

*                | | | | OUTPUT

*                | | | | |

.SUBCKT OPA445  1 2 3 4 5

*

C1   11 12 5.252E-12

C2    6  7 15.00E-12

DC    5 53 DX

DE   54  5 DX

DLP  90 91 DX

DLN  92 90 DX

DP    4  3 DX

EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5

FB    7 99 POLY(5) VB VC VE VLP VLN 0 37.74E6 -40E6 40E6 40E6 -40E6

GA    6  0 11 12 188.5E-6

GCM   0  6 10 99 3.352E-9

ISS   3 10 DC 202.5E-6

HLIM 90  0 VLIM 1K

J1   11  2 10 JX

J2   12  1 10 JX

G11 2 4 POLY(3) (10,2) (11,2) (4,2) 0 1E-12 1E-12 1E-12

G21 1 4 POLY(3) (10,1) (12,1) (4,1) 0 1E-12 1E-12 1E-12

R2    6  9 100.0E3

RD1   4 11 5.305E3

RD2   4 12 5.305E3

RO1   8  5 25

RO2   7 99 25

*  RP    3  4 21.05E3

RSS  10 99 987.7E3

VB    9  0 DC 0

VC    3 53 DC 5

VE   54  4 DC 5

VLIM  7  8 DC 0

VLP  91  0 DC 26

VLN   0 92 DC 26

****************************

* OPA445 "E" - ENHANCEMENTS

****************************

* OUTPUT SUPPLY MIRROR

FQ3   0 20 POLY(1) VLIM 0  1

DQ1  20 21 DX

DQ2  22 20 DX

VQ1  21  0 0

VQ2  22  0 0

FQ1   3  0 POLY(1) VQ1  2.795E-3  1

FQ2   0  4 POLY(1) VQ2  2.795E-3 -1

* QUIESCIENT CURRENT

RQ    3  4  1.0E5

* DIFF INPUT CAPACITANCE

CDIF  1  2  1.0E-12

* COMMON MODE INPUT CAPACITANCE

C1CM  1  99 1.5E-12

C2CM  2  99 1.5E-12

****************************

.MODEL DX D(IS=800.0E-18)

.MODEL JX PJF(IS=10.00E-12 BETA=87.73E-6 VTO=-1)

.ENDS
*End of OPA445